US09388189B2
b) 4-Hydroxy-3-methyl-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide
N-(3-Bromophenyl)-4-hydroxy-3-methylbenzenesulfonamide (582 mg, 1.70 mmol), bis(pinacolato)diboron (561 mg, 2.21 mmol), potassium acetate (294 mg, 5.1 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (108 mg, 0.13 mmol) were suspended in dioxane (17 ml) and stirred overnight at 100° C. After evaporation of the solvent under reduced pressure, ethyl acetate (20 ml) was added to the residue and the precipitated salts were eliminated by filtration. The solvent was evaporated under reduced pressure and hexane (30 ml) was added to the residue. The precipitate was filtered and this operation was repeated with the organic phase (another 30 ml of hexane were added after evaporation), to obtain 630 mg (66% yield, 93% purity), which was used in the next synthetic step without further purification.

reactant | N-(3-Bromophenyl)-4-hydroxy-3-methylbenzenesulfonamide | 1.70 mmol, 582 mg | BrC=1C=C(C=CC1)NS(=O)(=O)C1=CC(=C(C=C1)O)C | C13H12BrNO3S
reactant | bis(pinacolato)diboron | 2.21 mmol, 561 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 5.1 mmol, 294 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 17 ml | O1CCOCC1 | C4H8O2
product | 4-Hydroxy-3-methyl-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)benzenesulfonamide | 66% yield | OC1=C(C=C(C=C1)S(=O)(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C19H24BNO5S
